US08242104B2
2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate (370.1 mg, 1.0 mmol) and Copper cyanide (268.6 mg, 3.000 mmol) were mixed in 8 ml of N,N-Dimethylformamide. The reaction was microwaved on 200 watts, 150° C., for 40 minutes. The reaction mixture was partitioned between 25 ml of 5% ammonia in water and 25 ml of EtOAc. The aqueous layer was additionally extracted with 3×20 ml EtOAc, combined extracts were washed with water, brine and dried over MgSO4 to afford 225 mg of methyl 2-cyano-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate. Yield 81%. (MS: 270.0).

reactant | 2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | 1.0 mmol, 370.1 mg | IC=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)[O-])C1
reactant | Copper cyanide | 3.000 mmol, 268.6 mg | [Cu](C#N)C#N
reactant | N,N-Dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | methyl 2-cyano-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | 225 mg, Yield 81% | C(#N)C=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)OC)C1 | C14H11N3O3
